US05624950
To a solution of 22.9 g of 4,4-dimethoxy-2,5-cyclohexadien-1-one [J. Org. Chem., 52, 2763 (1987)] and 46 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine in 150 cm3 of dry dichloromethane are added dropwise 3 cm3 of trifluoroacetic acid. Once the reaction mixture has reached reflux it is allowed to return to room temperature and is then stirred for for one hour. After addition of 5 g of potassium carbonate, the suspension obtained is filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by chromatography on a column of silica gel (particle size 0.06-0.20 mm), eluting with a mixture of cyclohexane and ethyl acetate (90/10 then 80/20 by volume). 19 g of (3aRS,7aSR)-2-benzyl-7,7-dimethoxy-2,3,3a, 4,7,7a -hexahydro-1H-4-isoindolone are obtained in oil form.

reactant | 4,4-dimethoxy-2,5-cyclohexadien-1-one | 22.9 g | COC1(C=CC(C=C1)=O)OC | C8H10O3
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 46 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | trifluoroacetic acid | 3 cm3 | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | (3aRS,7aSR)-2-benzyl-7,7-dimethoxy-2,3,3a, 4,7,7a -hexahydro-1H-4-isoindolone | 19 g | C(C1=CC=CC=C1)N1CC2C(C=CC(C2C1)=O)(OC)OC | C17H21NO3
